US04657955
A1 N-(3,5-Bis-trifluoromethylphenyl)-phthalimide
800 ml of glacial acetic acid are initially introduced into a three-necked flask provided with a thermometer, stirrer and water separator, and are warmed to 55° C. A mixture of 44.4 g (0.3 mol) of phthalic anhydride and 68.7 g (0.3 mol) of distilled 3,5-bis-trifluoromethylaniline is then added and the components are stirred vigorously. On warming to 108° C., a clear solution is obtained. This is kept under reflux at 117° C. for 21/2 hours and is then cooled. 100 ml of cyclohexane are added to the reaction mixture and the mixture is kept under reflux at 93° C. for 5 hours, during which the water of reaction can be removed in the water separator.

reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
reactant | phthalic anhydride | 0.3 mol, 44.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3,5-bis-trifluoromethylaniline | 0.3 mol, 68.7 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
solvent | water | O | H2O
solvent | cyclohexane | 100 ml | C1CCCCC1 | C6H12
product | N-(3,5-Bis-trifluoromethylphenyl)-phthalimide | FC(C=1C=C(C=C(C1)C(F)(F)F)N1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C16H7F6NO2
